US05141951
12.1 Preparation of 5-(3-hydroxy-1,1'-biphenyl-4-yl)-1H-pyrazol-4-yl-propionic acid hydrazide [Process step a): deprotection]:
3 g of 5-(3-benzyloxy-1,1'-biphenyl-4-yl)-1H-pyrazol-4-yl-propionic acid hydrazide are dissolved with heating in isopropanol and hydrogenated over 10% palladium/charcoal. The catalyst is filtered off, the reaction mixture concentrated by evaporation and the concentrate allowed to stand for ca. 12 hrs. in a refrigerator. The title compound crystallises out as the dihydrochloride and is recovered by filtration: m.p.=138°-141° C.

reactant | 5-(3-benzyloxy-1,1'-biphenyl-4-yl)-1H-pyrazol-4-yl-propionic acid hydrazide | 3 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1C1=C(C=NN1)C(C(=O)NN)C)C1=CC=CC=C1 | C25H24N4O2
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | palladium/charcoal | [Pd] | Pd
product | 5-(3-hydroxy-1,1'-biphenyl-4-yl)-1H-pyrazol-4-yl-propionic acid hydrazide | OC=1C=C(C=CC1C1=C(C=NN1)C(C(=O)NN)C)C1=CC=CC=C1 | C18H18N4O2
